US05283248
tert-Butyl 4-[5-(cyclopropylamino)-2-fluoro-4-nitrophenyl]-1-piperazinecarboxylate (17.21 g, 45.2 mmol) is dissolved in methanol (500 ml) and hydrogenated with 5 percent Pd/C (500 mg) under hydrogen at normal pressure. The hydrogen uptake amounts to 3.04 l. The palladium/carbon is filtered off under an inert gas and the methanol is distilled off under reduced pressure. The residue is dried in a high vacuum, then dissolved in DMF (150 ml) and treated with ethyl 3-ethoxy-3-iminopropanoate hydrochloride (17.3 g, 88.4 mmol). The solution obtained is heated to 50° for 2 hours. The DMF is distilled off, the residue is dissolved in water and the pH is adjusted to 8.0 with saturated sodium bicarbonate solution. The solution is extracted with ethyl acetate and the organic phase is washed in succession with water, 10 percent sodium chloride solution and then dried over magnesium sulfate. The solution is evaporated under reduced pressure and the residue is chromatographed on silica gel (eluent:ethyl acetate). The product is then recrystallized from ethyl acetate/hexane. There are obtained 15.5 g (78%) of ethyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate with a m.p. of 152°-153°.

reactant | tert-Butyl 4-[5-(cyclopropylamino)-2-fluoro-4-nitrophenyl]-1-piperazinecarboxylate | 45.2 mmol, 17.21 g | C1(CC1)NC=1C(=CC(=C(C1)N1CCN(CC1)C(=O)OC(C)(C)C)F)[N+](=O)[O-] | C18H25FN4O4
reactant | hydrogen | [H][H] | H2
reactant | ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 88.4 mmol, 17.3 g | Cl.C(C)OC(CC(=O)OCC)=N
solvent | methanol | 500 ml | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | ethyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate | 15.5 g, 78% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=CC2=C(N(C(=N2)CC(=O)OCC)C2CC2)C1)F | C23H31FN4O4
